data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5047,5735,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][n+:12]1[c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21](=[O:22])[c-:23]1-[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]1([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[N:12]([CH3:11])[C:23]2([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[C:21](=[O:22])[O:20]1,water,298.15,33.143511071868375,13.58643790194087
2150,2385,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:15][C:16]3([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,16.567726635272482,-61.79225769612568
1504,1659,[CH2-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[CH2:17][NH:18][C:19]2([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,18.06839579123544,-16.392901298576966
618,678,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[O+:18][N-:19][C:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:19]([C:20]#[N:21])[O:18][CH:17]3[C:15]([O:14][CH3:13])=[O:16],water,298.15,7.104799260181178,-57.129343204825496
861,931,[CH2-:18][N+:19]#[C:20][C:21](=[O:22])[NH:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[CH2:18][N:19]=[C:20]2[C:21](=[O:22])[NH:23][CH3:24],water,298.15,10.448585435054293,-57.357524827177706
4371,4992,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[c:11]1[o:12][c:13](=[O:14])[c-:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[n+:22]1[CH3:23]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:15]2([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[C:13](=[O:14])[O:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[N:22]2[CH3:23],water,298.15,29.1429045037152,0.0746779269320637
2960,3307,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[N+:10]([CH3:11])[NH-:12]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[NH:12][N:10]([CH3:11])[CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,24.308529614601103,-20.25913671664345
1158,1259,[CH3:14][C:15](=[O:16])[CH:17]=[NH+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[CH:17]([C:15]([CH3:14])=[O:16])[NH:18][C:19]2([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,22.83926849049938,-8.723932916107866
3464,3945,[CH3:9][O:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:15]([C:16]([CH3:17])=[O:18])[NH:14][CH:13]1[C:11]([O:10][CH3:9])=[O:12],water,298.15,27.37974854104401,-17.427814965656893
650,710,[CH3:11][C-:12]([CH3:13])[NH+:14]=[C:15]([C:16]#[N:17])[C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:16]#[N:17])([C:18]#[N:19])[NH:14][C:12]3([CH3:11])[CH3:13],water,298.15,19.775549294346987,-24.08555282409734
3715,4243,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[c:12]1[nH+:13][c-:14]([C:15]([CH3:16])=[O:17])[c:18](=[O:19])[o:20]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]1([C:15]([CH3:16])=[O:17])[NH:13][C:12]2([C:10]([CH3:9])=[O:11])[O:20][C:18]1=[O:19],water,298.15,22.77847116197623,6.1583947537442185
3700,4223,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[N:7]#[C:8][c-:9]1[o+:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[o:18][c:19]1=[O:20]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:9]2([C:8]#[N:7])[O:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[O:18][C:19]2=[O:20],water,298.15,20.362914350602665,-11.097260505346382
